US09302989B2
5-(1,2-dihydroxyethyl)-N-{4-[(propylamino)carbonyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
A suspension of N-[4-(propylcarbamoyl)phenyl]-5-vinyl-1,3-dihydro-2H-isoindole-2-carboxamid (0.03 g, 0.086 mmol) in tetrahydrofuran (1 ml) and 2-propanol (0.3 ml) was treated with osmium tetroxide (2.5% wt. % solution in 2-methyl-2-propanol) (0.108 ml, 8.59 μmol). The reaction mixture was treated with N-methylmorpholine-N-oxide (0.030 g, 0.258 mmol). The reaction mixture was allowed to stir at room temperature overnight, quenched with aqueous sodium sulfite solution and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. Flash chromatography provided the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.55 (s, 1H), 8.25 (t, J=5.7 Hz, 1H), 7.74-7.78 (m, 2H), 7.63-7.68 (m, 2H), 7.27-7.33 (m, 3H), 5.24 (d, J=4.2 Hz, 1H), 4.75-4.77 (bs, 4H), 4.70 (t, J=5.8 Hz, 1H), 4.53-4.59 (m, 1H), 3.43 (t, J=5.8 Hz, 2H), 3.16-3.23 (m, 2H), 1.42-1.63 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 384 (M+H)+.

reactant | N-[4-(propylcarbamoyl)phenyl]-5-vinyl-1,3-dihydro-2H-isoindole-2-carboxamid | 0.086 mmol, 0.03 g | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C=C | C21H23N3O2
reactant | N-methylmorpholine-N-oxide | 0.258 mmol, 0.030 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | 2-propanol | 0.3 ml | CC(C)O | C3H8O
catalyst | osmium tetroxide | 8.59 μmol, 0.108 ml | [Os](=O)(=O)(=O)=O
product | 5-(1,2-dihydroxyethyl)-N-{4-[(propylamino)carbonyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | OC(CO)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(=O)NCCC | C21H25N3O4
